US05258529
125.40 Grams of 2,3-dichloro-1-propene were added dropwise to a mixture of 60.00 g of benzaldehyde, 180 g of toluene, 240 g of 5% acetic acid and 73.88 g of zinc powder at 45° C., and then the mixture was allowed to react at the same temperature for 3 hours. After the reaction was completed zinc-derived insolubles were filtered off, and the resultant filtrate was subjected to separation. The organic phase was washed with a 7% sodium carbonate aqueous solution and dried over sodium sulfate. The desiccant was filtered off, and then the toluene was distilled off under reduced pressure to give 98.23 g of 2-chloroallylphenylcarbinol. The results were as follows.

reactant | 2,3-dichloro-1-propene | ClC(=C)CCl | C3H4Cl2
reactant | benzaldehyde | 60.00 g | C(C1=CC=CC=C1)=O | C7H6O
reactant | toluene | 180 g | C1(=CC=CC=C1)C | C7H8
catalyst | zinc | 73.88 g | [Zn] | Zn
solvent | acetic acid | 240 g | C(C)(=O)O | C2H4O2
product | 2-chloroallylphenylcarbinol | 98.23 g, Yield 95.2% | ClC(CC(O)C1=CC=CC=C1)=C | C10H11ClO
